US05332731
(a) Tetrahydrofuran-3-ylmethyl trifluoromethanesulfonate
Tetrahydrofuran-3-yl-methanol (177 mg) and pyridine (0.15 ml) were dissolved in dichloromethane (2 ml) and the solution was cooled to -60° C. Trifluoromethanesulfonic acid anhydride (537 mg) was added dropwise to the cooled solution, followed by stirring at -60° C. for 10 minutes, and the resulting reaction solution containing the titled trifluoromethanesulfonate as produced was washed with cold water and dried over anhydrous magnesium sulfate, after which the solvent was distilled off in vacuo until the solution was concentrated to a volume of about 1 ml.

reactant | Tetrahydrofuran-3-yl-methanol | 177 mg | O1CC(CC1)CO | C5H10O2
reactant | pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic acid anhydride | 537 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Tetrahydrofuran-3-ylmethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC1COCC1)(F)F | C6H9F3O4S
